US07790720B2
A solution of ethyl 2-[4-(3-chloropropoxy)phenyl]-4-(piperidin-1-ylmethyl)-1,3-oxazole-5-carboxylate i95 (0.22 g, 0.56 mmol, 1 eq) in acetonitrile (10 ml) is treated with potassium carbonate (0.31 g, 2.24 mmol, 4 eq) and 2-methylpyrrolidine (60 μl, 0.67 mmol, 1.2 eq) and the resulting mixture is stirred at 110° C. overnight. Ethyl acetate is then added and the organic layer is washed with water, dried over magnesium sulfate and concentrated under reduced pressure. Purification over silicagel (eluent: dichloromethane/methanol/ammonia) affords 90 mg of ethyl 2-{4-[3-(2-methylpyrrolidin-1-yl)propoxy]phenyl}-4-(piperidin-1-ylmethyl)-1,3-oxazole-5-carboxylate i96.

reactant | ethyl 2-[4-(3-chloropropoxy)phenyl]-4-(piperidin-1-ylmethyl)-1,3-oxazole-5-carboxylate | ClCCCOC1=CC=C(C=C1)C=1OC(=C(N1)CN1CCCCC1)C(=O)OCC | C21H27ClN2O4
reactant | potassium carbonate | 2.24 mmol, 0.31 g, 4 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methylpyrrolidine | 0.67 mmol, 60 μl, 1.2 eq | CC1NCCC1 | C5H11N
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | ethyl 2-{4-[3-(2-methylpyrrolidin-1-yl)propoxy]phenyl}-4-(piperidin-1-ylmethyl)-1,3-oxazole-5-carboxylate | 90 mg, Yield: 36% | CC1N(CCC1)CCCOC1=CC=C(C=C1)C=1OC(=C(N1)CN1CCCCC1)C(=O)OCC | C26H37N3O4
